US04031236
(2-Thienyl)-(5-tetrazolylmethyl)-sulfide
A mixture of 7.76 g. (50 millimoles) of thiophene-2-thioacetonitrile, 4.30 g. (66 millimoles) of sodium azide, 3.55 g. (66 millimoles) of ammonium chloride, and 0.38 g. (9 millimoles) of lithium chloride is maintained for 5 hours at 120° in 50 ml. of dry dimethylformamide. The dimethylformamide is withdrawn under vacuum, the residue is combined with 500 ml. of cold 0.2 N sodium hydroxide solution and extracted with ether. The aqueous phase is adjusted to pH 3 and extracted three times with respectively 150 ml. of ether. The ether phase yields, after drying (Na2SO4) and concentration, the crude, solid tetrazole which is recrystallized once from acetonitrile/water and once from ethanol/water.

reactant | thiophene-2-thioacetonitrile | 50 millimoles | C1=CSC(=C1)SCC#N | C6H5NS2
reactant | sodium azide | 66 millimoles | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 66 millimoles | [Cl-].[NH4+]
reactant | lithium chloride | 9 millimoles | [Cl-].[Li+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | (2-Thienyl)-(5-tetrazolylmethyl)-sulfide | S1C(=CC=C1)SCC1=NN=NN1 | C6H6N4S2
